US05599947
N-(t-Butyloxycarbonyl)-D-isoleucine, Ethyl ester
The title compound was prepared by the method of Example 8 using ethyl iodide (0.4 mL, 5 mmol) instead of methyl iodide and BOC--D--Ile--OH--0.5 H2O (1.0 g, 4 mmol) instead of the title product of Example 1. Concentration afforded the title compound (1.2 g) as a water white liquid and the structure verified by NMR.

reactant | ethyl iodide | 5 mmol, 0.4 mL | C(C)I | C2H5I
reactant | BOC--D--Ile--OH | CC[C@@H](C)[C@H](C(=O)O)NC(=O)OC(C)(C)C | C11H21NO4
reactant | H2O | 4 mmol, 1.0 g | O | H2O
product | N-(t-Butyloxycarbonyl)-D-isoleucine, Ethyl ester | 1.2 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C)CC)C(=O)OCC | C13H25NO4
